US06509328B1
4-[7-(2-Fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl]-pyridine-2-carbonitrile
Prepared from {3-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K64) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a green solid (40 mg).

reactant | {3-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C26H23FN4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[7-(2-Fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl]-pyridine-2-carbonitrile | 40 mg | FC1=C(C=CC=C1)C1=CC2=C(N=C(CC(N2)=O)C2=CC(=NC=C2)C#N)C=C1 | C21H13FN4O
